US07645771B2
8-Benzyl-N-(2-nitrophenyl)-8-azabicyclo[3.2.1]octan-3-amine
5.62 g (27.82 mmol) 8-benzyl-8-azabicyclo[3.2.1]octan-3-amine (u17094-94) and 9.7 ml (55.46 mmoml) of Hunig's base were dissolved in 200 ml NMP. 4.32 g (30.60 mmol) 1-fluoro-2-nitrobenzene was then added and the mixture was stirred at RT for 3 hrs. The reaction mixture was diluted with EtOAc and washed with water and dried over sodium sulfate. The solvent was removed partially under reduced pressure and was left in refrigerator overnight. The solid was filtered off to afford 2.92 g of product as a yellow powder. The solvent was removed from filtration to give additional 5.7 g of product as an orange-yellow residue.

reactant | 8-benzyl-8-azabicyclo[3.2.1]octan-3-amine | 27.82 mmol, 5.62 g | C(C1=CC=CC=C1)N1C2CC(CC1CC2)N | C14H20N2
reactant | Hunig's base | 9.7 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-fluoro-2-nitrobenzene | 30.60 mmol, 4.32 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | NMP | 200 ml | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 8-Benzyl-N-(2-nitrophenyl)-8-azabicyclo[3.2.1]octan-3-amine | 2.92 g | C(C1=CC=CC=C1)N1C2CC(CC1CC2)NC2=C(C=CC=C2)[N+](=O)[O-] | C20H23N3O2
